US07205384B2
[(3S)-1-(Benzyloxycarbonylamino-imino-methyl)-2-oxo-piperidin-3-yl]-carbamic Acid tert-butyl Ester
To a mixture of L-arginine (156 g), water (840 g) and tert-butanol (500 g) was added at 15° C. di-tert-butyl dicarbonate (225 g). The mixture was allowed to warm to 25° C. and then an aqueous sodium hydroxide solution (235 g, 30%-ww) was added to the reaction mixture. After stirring overnight, the mixture was cooled to −5° C. An aqueous sodium hydroxide solution (810 g, 30%-ww) and subsequent benzyl chloroformate (483.3 g) were added. The aqueous phase was discarded and a solution of potassium hydroxide (25 g) in methanol (270 g) was added to the organic phase. The mixture was stirred at ambient temperature for 5 hours. The reaction mixture was hydrolyzed with water (500 g) and a saturated aqueous sodium chloride solution (500 g). The water phase was discarded. To the organic phase were added a 1:1 mixture of tetrahydrofuran and water (900 g) and subsequently at 0° C. triethylamine (135.5 g). Isobutyl chloroformate (182 g) was then added to the reaction mixture, at a rate such that the temperature did not exceed 10° C. After completion of the cyclization reaction, the mixture was allowed to heat to ambient temperature. The aqueous phase was discarded. To the organic phase were added water (200 g) and a saturated aqueous sodium chloride solution (300 g). The aqueous phase was discarded, the organic phase was cooled to 10° C. and to this mixture was added methanol (450 g). The reaction mixture was cooled to 0° C. After stirring at 0° C., the product was filtered and dried under reduced pressure to yield the title compound as colorless crystalline solid. The crude product was recrystallized from methanol.

reactant | L-arginine | 156 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | di-tert-butyl dicarbonate | 225 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 235 g | [OH-].[Na+]
reactant | sodium hydroxide | 810 g | [OH-].[Na+]
reactant | benzyl chloroformate | 483.3 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | potassium hydroxide | 25 g | [OH-].[K+]
reactant | sodium chloride | 500 g | [Cl-].[Na+]
reactant | Isobutyl chloroformate | 182 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium chloride | 300 g | [Cl-].[Na+]
solvent | methanol | 270 g | CO | CH4O
solvent | methanol | 450 g | CO | CH4O
solvent | water | 200 g | O | H2O
solvent | triethylamine | 135.5 g | C(C)N(CC)CC | C6H15N
solvent | water | 900 g | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 500 g | O | H2O
solvent | tert-butanol | 500 g | C(C)(C)(C)O | C4H10O
solvent | water | 840 g | O | H2O
product | [(3S)-1-(Benzyloxycarbonylamino-imino-methyl)-2-oxo-piperidin-3-yl]-carbamic Acid tert-butyl Ester | C(C)(C)(C)OC(N[C@@H]1C(N(CCC1)C(=N)NC(=O)OCC1=CC=CC=C1)=O)=O | C19H26N4O5
